Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin / oxybutynin / amoxicillin / Augmentin / Macrobid / 
Cipro / Bactrim
 
Attending: ___
 
Chief Complaint:
pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical
history of neurofibromatosis complicated by 
spinal astrocytoma and paraplegia, with chronic sacral ulcer, 
s/p ostomy, who presented with increasing pain and fevers at 
home. She is well-known to ___ and has had multiple visits,
almost monthly with similar issues.  History is challenging, as
the patient is tangential with questions, but she states that 
she
has pain in her coccyx, "100/10," sharp, like someone is
"scooping", possible radiation to back, no associated dysuria or
change in urine color or smell, but she does report fever to 103
or 104 5 days prior to admission. She has no cough, sick
contacts, or diarrhea.  She also has new foot wound. She states
that she changes the dressings herself at home because she has
issue with the ___ (unclear what this is exactly).  She also
states that, "I've been non-stop crying" but denies any acute
anxiety. She also states, "When I get to the hospital I get IV
morphine."  She has apparently not been compliant with her diet
of high protein and calories at home.  

Vitals in the ER: 100.8  110  100/62  20  100% RA 

There, the patient received: 
___ 02:30 PO OxyCODONE (Immediate Release) 10 mg 
___ 04:36 PO Zolpidem Tartrate 10 mg ___  
___ 07:19 PO OxyCODONE (Immediate Release) 10 mg
___ 09:18 PO Lorazepam 1 mg ___  
___ 12:07 IV Morphine Sulfate 4 mg ___ 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
-Neurofibromatosis Type II
-Spinal cord astrocytomas s/p resection c/b paraplegia: 
wheelchair-bound but able to transfer, has sensation in all 
extremities, full use of arms
-History of hip osteomyelitis of the hips 
-Resection of R proximal femur
-Neurogenic Bladder requiring self-catheterization
-Anxiety
-Right gluteal decubitus ulcer/right ischial pressure ulcer s/p 
exicision of right ischial pressure ulcer and closure with re 
advancement of local rotational flap
-Hx of recurrent UTI - being treated only when symptomatic
-Left common iliac vein DVT ___ , treated with six months of
anticoagulation

PSHx:
IVC filter removal ___
Laparoscopic colostomy ___
Closure of ischeal pressure ulcer ___
  1. Wide radical debridement of sacrum and ischium.
  2. Femoral shortening.
  3. Local muscle flap to the perineum.
  4. Posterior thigh myocutaneous flap to sacral pressure
    sore.
L PICC placement ___
# Resection of R proximal femur
# spinal cord astrocytomas s/p resection c/b paraplegia: 
wheelchair-bound but able to transfer, has sensation in all 
extremities, full use of arms
# right gluteal decubitus ulcer s/p local myocutaneous flap
coverage to right ischium   

 
Social History:
___
Family History:
Mother with NF, died from brain tumor at ___.
 
Physical Exam:
VITALS: ___ 1245 Temp: 98.6 PO BP: 113/77 HR: 97 RR: 18 O2
sat: 100% O2 delivery: ra Dyspnea: 0 RASS: 0 Pain Score: ___
GENERAL: Alert and intermittently tearful.  When discussing
dressing changes, she begins crying.  Cachectic.  
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular rate; normal perfusion, no appreciable JVD
RESP: Symmetric breathing pattern with no stridor. Breathing is
non-labored
GI: Abdomen soft, non-distended, no hepatosplenomegaly
appreciated.  Colostomy is in place.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, flaccid muscle tone with low bulk 
SKIN: left dorsum of foot has weeping ulcer of approximately 6cm
in largest diameter without ous or foul odor.  Similar wound on
right tibia.  Her sacral ulcer has granulated tissue, slightly
weeping with no pus.  Did not attempt to probe to bone, but no
bone was visible.  
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
reported blindness in right eye.  Flacid paralysis. 
PSYCH: normal thought content, anxious, fair insight. 

DISCHARGE EXAM:
AVSS
cachectic
MMM, poor dentition
RRR
CTAB
sntnd, colostomy site pink
wwp, trace ___ bilaterally
sacral ulcer approx 8x8cm with granulation tissue without 
purulence, mild rim of surrounding erythema
L dorsum of foot with minimal residual erythema
A&O grossly, face symmetric, reported blindness in R eye, 
paralysis in BLEs
odd affect, pleasant
 
Pertinent Results:
ADMISSION RESULTS
===========
___ 08:50AM   GLUCOSE-101* UREA N-7 CREAT-0.3* SODIUM-134* 
POTASSIUM-4.2 CHLORIDE-94* TOTAL CO2-26 ANION GAP-14
___ 08:50AM   estGFR-Using this
___ 08:50AM   CRP-75.4*
___ 05:51AM   LACTATE-1.8
___ 05:30AM   WBC-13.3* RBC-4.17 HGB-8.5* HCT-28.6* MCV-69* 
MCH-20.4* MCHC-29.7* RDW-17.9* RDWSD-42.7
___ 05:30AM   NEUTS-53.5 ___ MONOS-8.4 EOS-0.4* 
BASOS-0.5 IM ___ AbsNeut-7.13* AbsLymp-4.88* AbsMono-1.11* 
AbsEos-0.05 AbsBaso-0.06
___ 05:30AM   HYPOCHROM-NORMAL ANISOCYT-1+* 
POIKILOCY-OCCASIONAL MACROCYT-OCCASIONAL MICROCYT-NORMAL 
POLYCHROM-NORMAL SPHEROCYT-OCCASIONAL
___ 05:30AM   PLT SMR-VERY HIGH* PLT COUNT-938*

CXR:
FINDINGS:  
  
The cardiomediastinal silhouette is within normal limits.  No 
pleural effusion 
or pneumothorax.  There is increased kyphosis of the thoracic 
spine.  The 
lungs are clear. 
  
IMPRESSION:  
  
No acute cardiopulmonary abnormality. 
  
MRI PELVIS:
IMPRESSION: 
1. Overall stable S2 vertebral body osteomyelitis, in the 
setting of overlying decubitus ulcer.  Please note that MR 
findings of marrow edema can lag behind clinical response to 
antibiotic treatment. 
2. Minimal if any change in extension to/involvement of the 
presacral space, overlying soft tissues, and right SI joint. 
3. Stable size of a 5-6 mm enhancing nodule in the left 
posterior spinal canal at the level of L3. 
4. Postsurgical changes from prior right myocutaneous flap 
coverage and 
bilateral Girdlestone procedures. 

==========
PERTINENT INTERVAL RESULTS

___ 06:32AM BLOOD 25VitD-6*
___ 08:50AM BLOOD CRP-75.4*
___ 06:32AM BLOOD CRP-39.4*
___ 06:53AM BLOOD CRP-54.3*
___ 07:11AM BLOOD CRP-11.5*
___ 10:41AM URINE Blood-SM* Nitrite-POS* Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-LG*
___:41AM URINE RBC-10* WBC->182* Bacteri-MANY* 
Yeast-NONE Epi-1 TransE-<1
___ 10:41AM URINE Color-Straw Appear-Hazy* Sp ___

___ 10:41 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   0.5 S
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     4 S
TRIMETHOPRIM/SULFA----  =>16 R

==========
DISCHARGE RESULTS

___ 06:57AM BLOOD WBC-7.1 RBC-3.98 Hgb-8.0* Hct-28.5* 
MCV-72* MCH-20.1* MCHC-28.1* RDW-17.9* RDWSD-46.1 Plt ___
___ 06:57AM BLOOD Glucose-83 UreaN-7 Creat-<0.2* Na-142 
K-4.9 Cl-102 HCO3-28 AnGap-12
___ 10:15AM BLOOD ALT-7 AST-20 AlkPhos-67 TotBili-<0.2
___ 06:57AM BLOOD Calcium-7.8* Phos-4.8* Mg-1.8
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a PMHx of 
neurofibromatosis complicated by spinal astrocytoma and 
paraplegia, with chronic sacral/heel decubitus ulcer, s/p 
ostomy, with history of osteomyelitis and complicated infections 
requiring long courses of antibiotics who presented with 
increasing subjective pain and fevers at home likely due 
cellulitis superimposed on chronic osteomyelitis of her sacrum

Subjective acute on chronic ulcer pain and fever:
Chronic stage IV sacral/hell ulcers:
Chronic osteomyelitis
The patient was hospitalized to exclude acute infection given 
subjective fever and elevated CRP.  ___ RN was concerned about 
her ulcer given interval increase in size and tunneling noted, 
though no apparent clearly infected tissue requiring debridement 
was seen.  In terms of other infections, she had no resp 
symptoms and CXR was negative.  LFTs were neg.  Her Ucx grew E. 
coli which has been a colonizer.  Her CRP remained elevated 
compared to her most recent hospitalization.  MRI demonstrated 
likely chronic osteomyelitis.  ID was consulted to help 
determine a treatment plan given her medical complexity and 
history of poor adherence to treatment and ability to follow 
treatment plans in the outpatient setting. It was thought that 
best plan was to treat for the soft tissue infection and have 
aggressive wound care. She was recommended to start 
linezolid/moxifloxacin for a 10d course but she refused 
linezolid for unclear reasons. She was trialed in house on 
moxifloxacin (given her history of lip itching with cipro) and 
tolerated well other than some mild nausea. Her CRP trended down 
prior to initiation of abx, suggesting appropriate wound care 
was very helpful. She was advised repeatedly about the 
importance of aggressive wound care as being a necessary part of 
any solution to her chronic infection, and was set up with a new 
___ for daily wound care dressings (as she had previously not 
allowed her previous wound care ___ company into her house at 
times reportedly). She was intermittently not very engaged in 
wound care management and at times refused appropriate wound 
care and frequently refused to straight cath herself, leading to 
urinary incontinence. Note QTc was wnl while on moxifloxacin and 
ondansetron prn. 

Severe protein calorie malnutrition: 
Vitamin D Deficiency:
She was previously seen by nutrition and will continue on ensure 
supplements. Added back MVI, thiamine, ascorbic acid, and zinc 
supplementation that were previously recommended even though she 
refused last time.  Added vitamin D ___ units weekly. She 
refused many of these meds. 

Iron deficiency anemia / anemia secondary to inflammation:
Evaluation for anemia neg for hemolysis previously. Previous Fe 
studies showed low ferritin and low iron. Added supplementation. 
 No evidence of ongoing blood loss. She refused this. 

Anxiety:
Chronic issue contributing to her distress.  She is on Ativan at 
home.  Psychiatry was last consulted in ___ out of concern for 
self-care apparently, but she refused to speak with them.  We 
asked her to speak with this team but she is again refusing. We 
explained that she does not have to take any medications she 
does not want to but just would need to have a conversation.  
She refused again. Lorazepam was continued at home dose.

Insomnia: continued home zolpidem.

Thrombocytosis. Long term, likely due to chronic inflammation.

Please note that she declined most medications despite our 
strong recommendations to continue these treatments, including 
heparin ppx.

>30 minutes spent on patient care and coordination on day of 
discharge. 

TRANSITIONAL ISSUES:
- please continue to ensure pt is adherent with wound care and 
nutrition recommendations
- monitor erythema around sacrum on antibiotics
- after abx complete and if patient is able to adhere to 
recommendations around wound care and nutrition, can consider 
outpatient plastics follow up with Dr ___ by calling 
___ at that time can consider multidisciplinary 
discussions regarding  possibility of surgical intervention for 
osteomyelitis

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 1 mg PO BID:PRN anxiety 
2. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

3. Zolpidem Tartrate 10 mg PO QHS 
4. Docusate Sodium 100 mg PO BID:PRN constipation 
5. Ibuprofen 400 mg PO Q8H:PRN Headache 

 
Discharge Medications:
1.  Ascorbic Acid ___ mg PO DAILY 
RX *ascorbic acid (vitamin C) 1,000 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate [Feosol] 325 mg (65 mg iron) 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0 
3.  Moxifloxacin 400 mg oral DAILY 
RX *moxifloxacin 400 mg 1 tablet(s) by mouth daily Disp #*9 
Tablet Refills:*0 
4.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Vitamins and Minerals]  1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0 
5.  Ondansetron ODT 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 
6.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) [Vitamin B-1] 100 mg 1 tablet(s) 
by mouth daily Disp #*30 Tablet Refills:*0 
7.  Vitamin A ___ UNIT PO DAILY Duration: 10 Days 
RX *vitamin A 10,000 unit 1 capsule(s) by mouth daily Disp #*8 
Capsule Refills:*0 
8.  Vitamin D ___ UNIT PO 1X/WEEK (WE) Duration: 8 Weeks 
RX *ergocalciferol (vitamin D2) [Vitamin D2] 50,000 unit 1 
capsule(s) by mouth weekly Disp #*8 Capsule Refills:*0 
9.  Zinc Sulfate 220 mg PO DAILY 
RX *zinc sulfate 220 mg (50 mg zinc) 1 capsule(s) by mouth daily 
Disp #*1 Capsule Refills:*0 
10.  Docusate Sodium 100 mg PO BID:PRN constipation  
11.  Ibuprofen 400 mg PO Q8H:PRN Headache  
12.  LORazepam 1 mg PO BID:PRN anxiety  
13.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
14.  Zolpidem Tartrate 10 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cellulitis
Osteomyelitis
Acute on chronic pain
Stage IV sacral ulcer
Paraplegia
Neurogenic bladder
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
You were admitted with reported fever with increased pain at 
your ulcers.  You underwent a large work up to determine the 
cause.  Most likely you have a chronic infection in the sacral 
bone next to your chronic ulcer as well as some infection in the 
skin around the area. 
For this, we gave you antibiotics. While we would have ideally 
wanted to give you two antibiotics (linezolid and moxifloxacin), 
you preferred to take just one, so we are sending you out on 
this. 
It is very important that you do your wound care as best as 
possible, as that is the best way to give your infection a 
chance to heal. 

 
Followup Instructions:
___